US06734179B2
0.03 g (0.072 mMol) 4-(4-methoxy-2-methoxycarbonylamino-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester were dissolved in 0.75 ml 2.5 M HCl/MeOH and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo, taken up in 3 ml water and the pH was adjusted to 8 with sat. aqueous sodium bicarbonate. The suspension formed was filtered and the material on the filter was washed with water and dried in vacuo. The residue was subjected to column chromatography (dichloro methane/methanol 9:1+1%) NH4OH) to yield 4 mg (18%) [4-methoxy-7-(1,2,3,6-tetrahydro-pyridin-4-yl)-benzothiazol-2-yl]-carbamic acid methyl ester as a beige solid. ES-MS m/e (%): 320 ([M+H]+, 100).

reactant | 4-(4-methoxy-2-methoxycarbonylamino-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.072 mMol, 0.03 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)OC)OC | C20H25N3O5S
solvent | HCl MeOH | 2.5 M, 0.75 ml | Cl.CO
product | [4-methoxy-7-(1,2,3,6-tetrahydro-pyridin-4-yl)-benzothiazol-2-yl]-carbamic acid methyl ester | 4 mg, 18% | COC(NC=1SC2=C(N1)C(=CC=C2C=2CCNCC2)OC)=O | C15H17N3O3S
